US05864039
5-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)-pentylamine (2.0 g) was dissolved in methylene chloride (20 ml) and a solution of ethyl isocyanate (0.55 ml) in methylene chloride was dropwise added under ice-cooling. The mixture was stirred at room temperature for 0.25 hr, and the reaction mixture was concentrated under reduced pressure to give (3R)-3-tert-butoxycarbonylaminomethyl-1-(5-(3-ethylureido)pentyl)pyrrolidine.

reactant | 5-((3R)-3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)-pentylamine | 2.0 g | C(C)(C)(C)OC(=O)NC[C@@H]1CN(CC1)CCCCCN | C15H31N3O2
reactant | ethyl isocyanate | 0.55 ml | C(C)N=C=O | C3H5NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3-tert-butoxycarbonylaminomethyl-1-(5-(3-ethylureido)pentyl)pyrrolidine | C(C)(C)(C)OC(=O)NC[C@@H]1CN(CC1)CCCCCNC(=O)NCC | C18H36N4O3
